US06825170B2
4-(2-Pyrimidinyl)benzeneacetaldehyde
Sodium hexamethyldisilazide (1.0M in THF, 2.65 mL, 2.65 mmol) was added to a suspension of methoxymethyltriphenylphosphonium chloride (0.93 g, 2.71 mmol) in THF (13 mL) at 0° C., and the red-orange mixture was stirred for 15 min at 0° C. A solution of 4-(2-pyrimidinyl)benzaldehyde (250 mg, 1.36 mmol, prepared as described in WO 9828264) in THF (5 mL) was added, and stirring was continued at 0° C. for 1 h. 10% aq. HCl (13 mL) was added and the mixture was heated to 50° C. for 1 h. The reaction mixture was then cooled to 0° C. and solid Na2CO3 was added cautiously until the solution was basic. The mixture was extracted with ethyl acetate (2×25 mL) and the combined organic extracts were washed with brine (2×25 mL), dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 2:1 hexane/ethyl acetate) yielded 141 mg (52%) of the title compound. MS 199 (M+H)+.

reactant | Sodium hexamethyldisilazide | 2.65 mmol, 1.0M, 2.65 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methoxymethyltriphenylphosphonium chloride | 2.71 mmol, 0.93 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(2-pyrimidinyl)benzaldehyde | 1.36 mmol, 250 mg | N1=C(N=CC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
reactant | HCl | 13 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(2-Pyrimidinyl)benzeneacetaldehyde | 141 mg, 52% | N1=C(N=CC=C1)C1=CC=C(C=C1)CC=O | C12H10N2O
